US08044068B2
Synthesis of 4-ethylquinolin-2-ol
A mixture of 4-ethyl-2-hydroxyquinoline-3-carboxylic acid (0.84 g) and diphenyl ether (2.5 mL) was heated at 250° C. for 2 h with stirring. The mixture was cooled to room temperature and purified by silica gel column chromatography (chloroform/methanol=50:1) to obtain the title compound (0.57 g).

reactant | 4-ethyl-2-hydroxyquinoline-3-carboxylic acid | 0.84 g | C(C)C1=C(C(=NC2=CC=CC=C12)O)C(=O)O | C12H11NO3
reactant | diphenyl ether | 2.5 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4-ethylquinolin-2-ol | 0.57 g | C(C)C1=CC(=NC2=CC=CC=C12)O | C11H11NO
